US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 4-ethoxyaniline were reacted to yield N2-(4-ethoxyphenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CDCl3): δ 7.88 (bs, 1H), 7.40 (bd, 2H, J=8.7 Hz), 7.27 (bd, 2H, J=6.3 Hz), 6.95 (dd, 1H, J=3 and 9 Hz), 6.86–6.77 (m, 3H), 6.58 (s, 1H), 4.28 (bs, 4H), 4.01 (q, 2H, J=6.9 Hz), 1.40 (t, 3H, J=6.9 Hz); LCMS: ret. time: 24.46 min.; purity: 90%; MS (m/e): 383 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 4-ethoxyaniline | C(C)OC1=CC=C(N)C=C1 | C8H11NO
product | N2-(4-ethoxyphenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C20H19FN4O3
